US04769378
8-chloro-5-(4-chlorophenyl)-5H-indeno[1,2-d]pyrimidine
A solution of 4.0 g of α, α-bis(4-chlorophenyl)-5-pyrimidinemethanol in 25 ml of methanesulfonic acid was stirred under a nitrogen atmosphere for 18 hours. The solution was poured into a sodium bicarbonate solution and extracted with ethyl acetate. The organic extract was washed with a saturated sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. Recrystallization from ethyl acetate/isooctane provided 1.95 g of the desired title product, m.p. 158°-163° C.

reactant | α, α-bis(4-chlorophenyl)-5-pyrimidinemethanol | 4.0 g | ClC1=CC=C(C=C1)C(O)(C=1C=NC=NC1)C1=CC=C(C=C1)Cl | C17H12Cl2N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanesulfonic acid | 25 ml | CS(=O)(=O)O | CH4O3S
product | 8-chloro-5-(4-chlorophenyl)-5H-indeno[1,2-d]pyrimidine | 1.95 g | ClC1=CC=C2C(C3=C(N=CN=C3)C2=C1)C1=CC=C(C=C1)Cl | C17H10Cl2N2
